US04012367
To a solution of 26.3 parts of methyl 2-amino-2-methylpropionate in methanol is added 70 parts of n-propylamine. The mixture is placed in a bomb and left at a temperature of 100° C. for one week. The solvents are then stripped off under reduced pressure. Distillation of the residual oil affords N1 -propyl-2-amino-2-methylpropionamide, boiling at 58° C. at 0.1 mm pressure.

reactant | methyl 2-amino-2-methylpropionate | NC(C(=O)OC)(C)C | C5H11NO2
reactant | n-propylamine | C(CC)N | C3H9N
solvent | methanol | CO | CH4O
product | N1 -propyl-2-amino-2-methylpropionamide | C(CC)NC(C(C)(C)N)=O | C7H16N2O
